US08084448B2
C. (Z) -4-(4-Amino-3-benzyloxyphenyl)-3-phenyl-but-3-en-2-one
A mixture of (Z) -4-(3-benzyloxy-4-nitrophenyl)-3-phenyl-but-3-en-2-one (760 mg, 2.03 mmol), 5% platinum on carbon (114 mg) in EtOAc (10 mL) is hydrogenated at 1 atm for 18 h. The mixture is filtered through Celite, washed with EtOAc and the filtrate is concentrated. The residue is purified by flash chromatography using methylene chloride/MeOH (100:1) as eluent to give the title compound as a yellow solid.

reactant | (Z) -4-(3-benzyloxy-4-nitrophenyl)-3-phenyl-but-3-en-2-one | 2.03 mmol, 760 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])\C=C(/C(C)=O)\C1=CC=CC=C1 | C23H19NO4
catalyst | platinum on carbon | 114 mg | [Pt] | Pt
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (Z) -4-(4-Amino-3-benzyloxyphenyl)-3-phenyl-but-3-en-2-one | NC1=C(C=C(C=C1)\C=C(/C(C)=O)\C1=CC=CC=C1)OCC1=CC=CC=C1 | C23H21NO2
